US04282242
4-(4-Chlorophenoxy)pyrrole-2-carboxylate and an equivalent quantity of magnesium oleate are each dissolved in ethanol and the solutions mixed. Magnesium 4-(4-chlorophenoxy)pyrrole-2-carboxylate is isolated by concentration and/or addition of heptane.

reactant | 4-(4-Chlorophenoxy)pyrrole-2-carboxylate | ClC1=CC=C(OC=2C=C(NC2)C(=O)[O-])C=C1
reactant | magnesium oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-]
reactant | heptane | CCCCCCC | C7H16
solvent | ethanol | C(C)O | C2H6O
product | Magnesium 4-(4-chlorophenoxy)pyrrole-2-carboxylate | ClC1=CC=C(OC=2C=C(NC2)C(=O)[O-])C=C1.[Mg+2].ClC1=CC=C(OC=2C=C(NC2)C(=O)[O-])C=C1 | InChI=1S/2C11H8ClNO3.Mg/c2*12-7-1-3-8(4-2-7)16-9-5-10(11(14)15)13-6-9;/h2*1-6,13H,(H,14,15);/q;;+2/p-2
